US08912208B2
B. (4-{4-[2-(3-Fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
The mixture of (5-bromopyrimidin-2-yl)-(3-fluorophenyl)-amine (75 mg, 0.28 mmol), {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (Patent WO2004 047755) (100 mg, 0.28 mmol), PdCl2dppf (12 mg, 0.014 mmol), sodium carbonate (2M solution, 0.35 mL) and DME (2 mL) is heated in a microwave at 125° C. for 15 Min. The reaction mixture is extracted with EtOAc, washed with NH4Cl solution. The organic phase is dried with MgSO4, filtered and it is used directly in the next step: (M+H)+ 420.3.

reactant | (5-bromopyrimidin-2-yl)-(3-fluorophenyl)-amine | 0.28 mmol, 75 mg | BrC=1C=NC(=NC1)NC1=CC(=CC=C1)F | C10H7BrFN3
reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.28 mmol, 100 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | sodium carbonate | 2M, 0.35 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
product | (4-{4-[2-(3-Fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=NC1)NC1=CC(=CC=C1)F)=O | C25H26FN3O2
